US09062034B2
e) 2-(5-ethynyl-thiophen-2-yl)-4,4-dimethyl-4H-oxazol-5-one
Prepared analogously to Example 3-a from 2-[(5-ethynyl-thiophen-2-yl)-carbonylamino]-2-methyl-propionic acid in acetic anhydride at 65° C. with subsequent purification by chromatography on silica gel with the eluant (petroleum ether/ethyl acetate=2:1).

reactant | 2-[(5-ethynyl-thiophen-2-yl)-carbonylamino]-2-methyl-propionic acid | C(#C)C1=CC=C(S1)C(=O)NC(C(=O)O)(C)C | C11H11NO3S
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(5-ethynyl-thiophen-2-yl)-4,4-dimethyl-4H-oxazol-5-one | C(#C)C1=CC=C(S1)C=1OC(C(N1)(C)C)=O | C11H9NO2S
